US05302718
Ethyl 4-fluoro-2-hydroxy-5-iodobenzoate
Ethyl 4-fluoro-2-hydroxybenzoate (10.2 g, 55 mmol)) was dissolved in n-heptane. Iodo monochloride (12 g, 74 mmol) was added dropwise at ambient temperature with sniffing. After 1 h, water was added and then solid sodium sulfite in small portions until the suspension was decolourized. More n-heptane was added to clear solution and the phases separated. The organic phase was dried and concentrated. The product crystallized on cooling. It was collected by filtration and washed with cold n-heptane. The crude yield was 10 g. The product was a mixture of ethyl 4-fluoro-2-hydroxy-5-iodobenzoate (about 80%) and the 5 chloro analogue (about 20%).

reactant | Ethyl 4-fluoro-2-hydroxybenzoate | 55 mmol, 10.2 g | FC1=CC(=C(C(=O)OCC)C=C1)O | C9H9FO3
reactant | Iodo monochloride | 74 mmol, 12 g | ICl | ClI
reactant | water | O | H2O
reactant | sodium sulfite | S(=O)([O-])[O-].[Na+].[Na+]
solvent | n-heptane | CCCCCCC | C7H16
product | Ethyl 4-fluoro-2-hydroxy-5-iodobenzoate | FC1=CC(=C(C(=O)OCC)C=C1I)O | C9H8FIO3
